US06235771B1
To a solution of methyl 7-(4-propoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (400 mg) in 1,2-dimethoxyethane (10 ml) was added 6N hydrochloric acid (5 ml), and the mixture was refluxed for 2 days, cooled to room temperature and concentrated under reduced pressure to give crystals, which were collected by filtration. The crystals were washed with water, 2-propanol and diisopropylether to give colorless crystals of 7-(4-propoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (346.1 mg).

reactant | methyl 7-(4-propoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 400 mg | C(CC)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C21H22O5S
reactant | hydrochloric acid | 6N, 5 ml | Cl | ClH
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
product | 7-(4-propoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 346.1 mg | C(CC)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)O)C1 | C20H20O5S
